US05602121
11-(4-hexyl-1-piperazinyl)dibenz[b,f][1,4]oxazepine
To a stirred solution of 11-(1-piperazinyl)dibenz[b,f][1,4]oxazepine (0.28 g, 1.00 mmol) in DMF (10 mL) was added sodium hydride (0.056 g, 60% in oil, 1.40 mmol) at 0 ° C. under argon. The mixture was stirred at 0 ° C. for 10 rain at room temperature for 20 minutes, and then treated with 1-bromohexane (2.35 g, 12 mmol). The resulted mixture was stirred at room temperature overnight and quenched with saturated ammonium chloride solution (10 mL). The mixture was extracted with ethyl acetate (3×30 mL). The combined organic phase was dried over magnesium sulfate and filtered. The filtrate was concentrated in vacuo to dryness and the residue was subjected to column chromatography using ethyl acetate/hexane (1/2) as the eluent. The title compound was obtained in 0.167 g (46%) as a light yellow oil.

reactant | 11-(1-piperazinyl)dibenz[b,f][1,4]oxazepine | 1.00 mmol, 0.28 g | N1(CCNCC1)C1=NC2=C(OC3=C1C=CC=C3)C=CC=C2 | C17H17N3O
reactant | sodium hydride | 1.40 mmol, 0.056 g | [H-].[Na+]
reactant | 1-bromohexane | 12 mmol, 2.35 g | BrCCCCCC | C6H13Br
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 11-(4-hexyl-1-piperazinyl)dibenz[b,f][1,4]oxazepine | C(CCCCC)N1CCN(CC1)C1=NC2=C(OC3=C1C=CC=C3)C=CC=C2 | C23H29N3O
